US07091220B2
[(2-Bromo-phenyl)-(4-nitro-1H-indol-3-yl)-methyl]-dimethyl-amine
The preparation was carried out in accordance with general synthesis instructions 4 from 4-nitroindole and (2-bromo-benzylidene)-dimethyl-ammonium chloride, which had been prepared in accordance with example 24 from 2-bromo-benzaldehyde and dimethylamine.

reactant | 4-nitroindole | [N+](=O)([O-])C1=C2C=CNC2=CC=C1 | C8H6N2O2
reactant | (2-bromo-benzylidene)-dimethyl-ammonium chloride | [Cl-].BrC1=C(C=[N+](C)C)C=CC=C1
reactant | 2-bromo-benzaldehyde | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | dimethylamine | CNC | C2H7N
product | [(2-Bromo-phenyl)-(4-nitro-1H-indol-3-yl)-methyl]-dimethyl-amine | BrC1=C(C=CC=C1)C(C1=CNC2=CC=CC(=C12)[N+](=O)[O-])N(C)C | C17H16BrN3O2
